US07585881B2
(4-Cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-methanol
4-(4-cyclopropyl-4H-[1,2,4]triazol-3-yl)-pyridine (6.85 g, 36.8 mmol) was mixed with 37% formaldehyde (30 mL) in a sealed vial and heated at 135° C. o.n. The reaction mixture was concentrated with silica gel and then mixed with MeOH. The mixture was filtered and washed with MeOH. The filtrate was concentrated with silica gel again and loaded on a flash column and eluted with 10% MeOH (2 M NH3) in DCM to give the title compound (6.8 g, 85%). 1H-NMR(DMSO-d6): 8.75(d, 2H), 7.84 (d, 2H), 5.63 (t, 1H), 4.72 (d, 2H), 3.66 (m, 1H), 1.04 (m, 2H), 0.73 (m, 2H).

reactant | 4-(4-cyclopropyl-4H-[1,2,4]triazol-3-yl)-pyridine | 36.8 mmol, 6.85 g | C1(CC1)N1C(=NN=C1)C1=CC=NC=C1 | C10H10N4
reactant | formaldehyde | 30 mL | C=O | CH2O
product | (4-Cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-methanol | 6.8 g, 85% | C1(CC1)N1C(=NN=C1C1=CC=NC=C1)CO | C11H12N4O
